US07816522B2
(126b) {2-(3-ethoxy-4-methylcarbamoylmethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester
After adding 200 mg of potassium carbonate and 78 mg of 2-bromo-N-methyl-acetamide to a solution of 154 mg of {2-(3-ethoxy-4-hydroxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 1 ml of acetone, the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, extraction was performed with ethyl acetate, and the organic layer was washed with 0.5N hydrochloric acid and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (161 mg) as a yellow solid.

reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-methyl-acetamide | 78 mg | BrCC(=O)NC | C3H6BrNO
reactant | {2-(3-ethoxy-4-hydroxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 154 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)O)OCC)SC)=O | C22H22N4O5S
reactant | Water | O | H2O
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {2-(3-ethoxy-4-methylcarbamoylmethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 161 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OCC(NC)=O)OCC)SC)=O | C25H27N5O6S
